### PR TITLE
finish #518

### PR DESCRIPTION
**Pull request by Whysoserioushah**

### CODE REVIEW

File: FLT/Mathlib/LinearAlgebra/Determinant.lean [hunk 1]
```diff
@@ -1,18 +1,87 @@
...
-import Mathlib.LinearAlgebra.Determinant
 import FLT.Mathlib.Algebra.Algebra.Bilinear
+import Mathlib.Algebra.Azumaya.Basic
+import Mathlib.Algebra.Central.Defs
+import Mathlib.Algebra.Lie.OfAssociative
+import Mathlib.FieldTheory.IsAlgClosed.AlgebraicClosure
+import Mathlib.LinearAlgebra.Charpoly.BaseChange
+import Mathlib.LinearAlgebra.FreeModule.PID
+import Mathlib.RingTheory.Henselian
+import Mathlib.RingTheory.SimpleModule.IsAlgClosed
```
Comment (kbuzzard) [inline FLT/Mathlib/LinearAlgebra/Determinant.lean:10]: Did you try `#min_imports` at the end of the file? Do you really need all of these? I'd be surprised if you need the Lie algebra import for example (althugh I've seen `#min_imports` claim it before!)

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean [hunk 2]
```diff
@@ -76,7 +76,7 @@ section issimplering
 
 variable {D : Type*} [Ring D] [TopologicalSpace D]
     [Algebra F D] [FiniteDimensional F D] [IsSimpleRing D]
-    [IsModuleTopology F D]
+    [IsModuleTopology F D] [Algebra.IsCentral F D]
```
Comment (kbuzzard) [inline FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: Can you add a remark that this hypothesis can be removed if necessary by proving the result for the Z(D)-determinant and deducing it for the F-determinant? We might need to do this later.

File: FLT/Mathlib/LinearAlgebra/Determinant.lean [hunk 3]
```diff
@@ -1,18 +1,87 @@
...
+  apply LinearMap.ext
+  intro M
+  ext i j
+  simp [Matrix.mul_apply, Matrix.mulVec, dotProduct, mul_comm]
+
+variable [Algebra.IsCentral k D] [IsSimpleRing D] [FiniteDimensional k D]
+
+/-- this is instance is in a repo on brauergroup which will soon be PRed into mathlib. -/
+instance (A B : Type*) [Ring A] [Ring B] [Algebra k A] [Algebra k B]
+    [Algebra.IsCentral k B] [IsSimpleRing A] [IsSimpleRing B]: IsSimpleRing (A ⊗[k] B) := sorry
```
Comment (kbuzzard) [inline FLT/Mathlib/LinearAlgebra/Determinant.lean:48]: (This `sorry` is fine)

File: FLT/Mathlib/LinearAlgebra/Determinant.lean (hunk 1 above)
Comment (Whysoserioushah) [reply FLT/Mathlib/LinearAlgebra/Determinant.lean:10]: yeah I tried and this is what `#min_imports` give... :-(

File: FLT/HaarMeasure/HaarChar/FiniteDimensional.lean (hunk 2 above)
Comment (Whysoserioushah) [reply FLT/HaarMeasure/HaarChar/FiniteDimensional.lean]: done!

File: FLT/Mathlib/LinearAlgebra/Determinant.lean [hunk 4]
```diff
@@ -1,18 +1,86 @@
...
-import Mathlib.LinearAlgebra.Determinant
 import FLT.Mathlib.Algebra.Algebra.Bilinear
+import Mathlib.Algebra.Azumaya.Basic
+import Mathlib.Algebra.Central.Defs
+import Mathlib.Algebra.Lie.OfAssociative
+import Mathlib.FieldTheory.IsAlgClosed.AlgebraicClosure
+import Mathlib.LinearAlgebra.Charpoly.BaseChange
+import Mathlib.LinearAlgebra.FreeModule.PID
+import Mathlib.RingTheory.Henselian
+import Mathlib.RingTheory.SimpleModule.IsAlgClosed
```
Comment (kbuzzard) [inline FLT/Mathlib/LinearAlgebra/Determinant.lean]:
```suggestion
import Mathlib.Algebra.Central.Defs
import Mathlib.FieldTheory.IsAlgClosed.AlgebraicClosure
import Mathlib.LinearAlgebra.Charpoly.BaseChange
import Mathlib.RingTheory.SimpleModule.IsAlgClosed
```
Don't believe `shake` ;-)

File: FLT/Mathlib/LinearAlgebra/Determinant.lean [hunk 5]
```diff
@@ -1,18 +1,86 @@
...
 
 variable (k : Type*) [Field k] {D : Type*} [Ring D] [Algebra k D]
-variable [IsSimpleRing D] [FiniteDimensional k D]
+open scoped TensorProduct
+
+lemma mulLeft_conj (K : Type*) [Field K] [Algebra k K] (n : ℕ) (d : D)
+    (e : K ⊗[k] D ≃ₐ[K] Matrix (Fin n) (Fin n) K) :
+    LinearMap.mulLeft K (e (1 ⊗ₜ d)) = e ∘ₗ LinearMap.mulLeft K ((1 : K) ⊗ₜ[k] d) ∘ₗ e.symm := by
```
Comment (kbuzzard) [inline FLT/Mathlib/LinearAlgebra/Determinant.lean]:
```suggestion
lemma mulLeft_conj (K : Type*) [Field K] [Algebra k K] (n : ℕ) (x : K ⊗[k] D)
    (e : K ⊗[k] D ≃ₐ[K] Matrix (Fin n) (Fin n) K) :
    LinearMap.mulLeft K (e x) = e ∘ₗ LinearMap.mulLeft K x ∘ₗ e.symm := by
```
There's no reason to restrict to 1 tensor d, just let x be arbitrary. Same for next lemma.

File: FLT/Mathlib/LinearAlgebra/Determinant.lean [hunk 6]
```diff
@@ -1,18 +1,86 @@
...
+    (((Matrix.ofLinearEquiv K ≪≫ₗ Matrix.transposeLinearEquiv (Fin n) (Fin n) K K).symm.toLinearMap
+    ∘ₗ (LinearMap.mulLeft K N) ∘ₗ ((Matrix.ofLinearEquiv K) ≪≫ₗ Matrix.transposeLinearEquiv
+    (Fin n) (Fin n) K K).toLinearMap)) = LinearMap.pi fun i ↦ ((fun _ ↦ Matrix.toLin' N) i).comp
+    (LinearMap.proj i) := by
+  apply LinearMap.ext
+  intro M
+  ext i j
+  simp only [LinearMap.pi_apply, LinearMap.coe_comp, LinearMap.coe_proj, Function.comp_apply,
+    Function.eval, Matrix.toLin'_apply]
+  rfl
```
Comment (kbuzzard) [inline FLT/Mathlib/LinearAlgebra/Determinant.lean]:
```suggestion
    (LinearMap.proj i) := rfl
```

File: FLT/Mathlib/LinearAlgebra/Determinant.lean [hunk 7]
```diff
@@ -1,18 +1,86 @@
...
+  apply LinearMap.ext
+  intro M
+  ext i j
+  simp [Matrix.mul_apply, Matrix.mulVec, dotProduct, mul_comm]
+
+variable [Algebra.IsCentral k D] [IsSimpleRing D] [FiniteDimensional k D]
+
+/-- this is instance is in a repo on brauergroup which will soon be PRed into mathlib. -/
+instance (A B : Type*) [Ring A] [Ring B] [Algebra k A] [Algebra k B]
+    [Algebra.IsCentral k B] [IsSimpleRing A] [IsSimpleRing B]: IsSimpleRing (A ⊗[k] B) := sorry
```
Comment (kbuzzard) [inline FLT/Mathlib/LinearAlgebra/Determinant.lean:48]: I've opened a task #631 for this -- can you add `#631` as a comment to the sorry and then claim the issue? No hurry to do it.

File: FLT/Mathlib/LinearAlgebra/Determinant.lean (hunk 4 above)
Comment (Whysoserioushah) [reply FLT/Mathlib/LinearAlgebra/Determinant.lean]: Ah yes :-)

File: FLT/Mathlib/LinearAlgebra/Determinant.lean (hunk 5 above)
Comment (Whysoserioushah) [reply FLT/Mathlib/LinearAlgebra/Determinant.lean]: done!

File: FLT/Mathlib/LinearAlgebra/Determinant.lean (hunk 7 above)
Comment (Whysoserioushah) [reply FLT/Mathlib/LinearAlgebra/Determinant.lean:48]: done!
